US05238931
Preparation of crystalline zinc L-carnosine complex
In 100 ml of methanol, 3.51 g of sodium hydroxide was dissolved, and 9.96 g of L-carnosine was added to obtain a homogeneous solution. To this solution, a solution obtained by dissolving 9.67 g of zinc acetate.2H2O into 145 ml of methanol was dropped over 30 minutes, while the solution was stirred, to gradually produce white precipitate therein. After finishing of the dropping, the solution was stirred for 2 hours and then left it overnight as was. The solution was filtered, and the precipitation was washed by 140 ml of water and then air-dried at 80° C. for 5 hours to obtain 12.4 g of white powdery crystals. The results of an analysis of the obtained material are as follows:

reactant | sodium hydroxide | 3.51 g | [OH-].[Na+]
reactant | L-carnosine | 9.96 g | C1=C(NC=N1)C[C@@H](C(=O)O)NC(=O)CCN | C9H14N4O3
reactant | zinc acetate | 9.67 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 145 ml | CO | CH4O
product | zinc L-carnosine | 12.4 g | C1=C(NC=N1)CC(C(=O)[O-])N=C(CC[NH-])[O-].[Zn+2] | InChI=1S/C9H13N4O3.Zn/c10-2-1-8(14)13-7(9(15)16)3-6-4-11-5-12-6;/h4-5,7,10H,1-3H2,(H,11,12)(H,13,14)(H,15,16);/q-1;+2/p-2
